US08138197B2
6-(6-Oxo-1,6-dihydropyridin-3-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride
Tert-Butyl 6-[6-(methoxy)pyridin-3-yl]-4-oxo-spiro[chroman-2,4′-piperidine]-1′-carboxylate (550 mg) was suspended in conc. HCl aq. (10 ml) and stirred at 100 deg. for 20 h. After removal of the solvent, the resulted solid was washed with MeOH and Et2O to obtain the intended compound as a colorless solid.

reactant | Tert-Butyl 6-[6-(methoxy)pyridin-3-yl]-4-oxo-spiro[chroman-2,4′-piperidine]-1′-carboxylate | 550 mg | COC1=CC=C(C=N1)C=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O | C24H28N2O5
reactant | HCl | 10 ml | Cl | ClH
product | 6-(6-Oxo-1,6-dihydropyridin-3-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | Cl.O=C1C=CC(=CN1)C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O | InChI=1S/C18H18N2O3.ClH/c21-15-10-18(5-7-19-8-6-18)23-16-3-1-12(9-14(15)16)13-2-4-17(22)20-11-13;/h1-4,9,11,19H,5-8,10H2,(H,20,22);1H
